US09290517B2
Step B: (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-[5-(2,2,2-trifluoroethyl)-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
A 4 mL vial was charged with palladium(II) acetate (2.6 mg, 0.012 mmol), 1,4-bis(diphenylphosphino)butane (3.0 mg, 7.03 μmol), and ethanol (0.1 ml). This catalyst mixture was degassed (3×) and stirred under nitrogen for 15 min. Sodium borohydride (3.5 mg, 0.093 mmol) was added to a stirred solution of (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-[5-(2,2,2-trifluoroethyl)-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (9.5 mg, 0.016 mmol) in ethanol (0.15 ml) and DCM (0.05 ml). The sodium borohydride mixture was degassed (3×) and placed under nitrogen. The catalyst mixture was transferred via syringe to the sodium borohydride reaction mixture.

reactant | 1,4-bis(diphenylphosphino)butane | 7.03 μmol, 3.0 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | Sodium borohydride | 0.093 mmol, 3.5 mg | [BH4-].[Na+]
reactant | (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-[5-(2,2,2-trifluoroethyl)-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.016 mmol, 9.5 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)N2N=C1C(=C2)CN(C1)CC(F)(F)F)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C28H26ClF3N6O4
solvent | ethanol | 0.15 ml | C(C)O | C2H6O
solvent | DCM | 0.05 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium(II) acetate | 0.012 mmol, 2.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 0.1 ml | C(C)O | C2H6O
product | (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-[5-(2,2,2-trifluoroethyl)-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1N=C3C(=C1)CN(C3)CC(F)(F)F)N=C(N2)O[C@@H]2CO[C@H]3[C@@H]2OC[C@H]3O | C25H22ClF3N6O4
